US07186742B2
2-Chloro-N-(1-hydroxy-cycloheptylmethyl)-5-[5-methyl-1-(2-oxo-2-pyrrolidin-1-yl-ethyl)-1H-pyrazol-3-yl]-benzamide
To a solution of (3-{4-chloro-3-[(1-hydroxy-cycloheptylmethyl)-carbamoyl]-phenyl}-5-methyl-pyrazol-1-yl)-acetic acid (41.9 mg, 0.1 mmol) in N,N-dimethylformamide (1 mL) was added a solution of 1-hydroxybenzotriazole (20.25 mg, 0.15 mmol) in N,N-dimethylformamide (0.5 mL) and carbonyldiimidazole on polystyrene (294 mg, 0.3 mmol). The mixture was shaken at room temperature for 10 minutes. Pyrrolidine (10.65 mg, 0.15 mmol) was added as a solution in N,N-dimethylformamide (1.5 mL). Polystyrene supported dimethylaminopyridine (152 mg, 0.22 mmol) was added and the mixture was shaken at room temperature for 16 h. MP-carbonate resin (139 mg, 0.4 mmol) was added and the mixture was shaken at room temperature for 3 h. The mixture was filtered, washed with methanol and concentrated in vacuo. The residue was purified by reverse phase chromatography to afford the title compound (22 mg). LCMS (m/z) 473.4 M+1.

reactant | (3-{4-chloro-3-[(1-hydroxy-cycloheptylmethyl)-carbamoyl]-phenyl}-5-methyl-pyrazol-1-yl)-acetic acid | 0.1 mmol, 41.9 mg | ClC1=C(C=C(C=C1)C1=NN(C(=C1)C)CC(=O)O)C(NCC1(CCCCCC1)O)=O | C21H26ClN3O4
reactant | 1-hydroxybenzotriazole | 0.15 mmol, 20.25 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | Pyrrolidine | 0.15 mmol, 10.65 mg | N1CCCC1 | C4H9N
reactant | dimethylaminopyridine | 0.22 mmol, 152 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | MP-carbonate resin | 0.4 mmol, 139 mg | CC[NH+](CC)CC.CC[NH+](CC)CC.C(=O)([O-])[O-]
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
solvent | carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | N,N-dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
product | 2-Chloro-N-(1-hydroxy-cycloheptylmethyl)-5-[5-methyl-1-(2-oxo-2-pyrrolidin-1-yl-ethyl)-1H-pyrazol-3-yl]-benzamide | 22 mg | ClC1=C(C(=O)NCC2(CCCCCC2)O)C=C(C=C1)C1=NN(C(=C1)C)CC(N1CCCC1)=O | C25H33ClN4O3
